US06916937B2
Step B: 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R),4-(S),5-(S)-trihydroxy-6-(R)-hydroxymethyl-tetrahydro-pyran-2-(R)-yl)-1,3-dihydro-indol-2-one; 3-(S)-Ib:
To a round bottom flask containing 1-(4-(S),5-(S)-Bis-benzyloxy-6-(R)-benzyloxymethyl-3-(R)-hydroxy-tetrahydro-pyran-2-(R)-yl)-3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one ((S)-VIII) (0.144 g, 0.18 mmol) was added ethyl acetate (1 mL). Platinum oxide (0.020 g, 0.09 mmol) was added to the reaction mixture which was then placed under a hydrogen atmosphere. The reaction was allowed to stir at room temperature overnight. The crude reaction mixture was purified via reverse phase column chromatography (C18, 1:1 water:acetonitrile). The title product was obtained as a white solid (0.040 g, 42%). 1H NMR (MeOH-D4, 400 MHz): δ 7.73 (dd, 1H, J=1.6 Hz, 0.9 Hz), 7.52 (s, 1H), 7.39 (m, 2H), 7.30 (dd, 1H, J=5.5 Hz, 2.0 Hz), 6.94 (dd, 1H, J=7.5 Hz, 1.2 Hz), 5.43 (d, 1H, J=9.5 Hz), 4.04 (t, 1H, J=9.1 Hz), 3.95 (dd, 1H, J=10.5 Hz, 1.4 Hz), 3.75 (dd, 1H, J=6.8 Hz, 5.3 Hz), 3.57 (s, 3H), 3.53 (m, 2H); 19F NMR (MeOH-D4, 376 MHz): δ−64.6, −161.7; LRMS: 519 [M−H]−.

reactant | 1-(4-(S),5-(S)-Bis-benzyloxy-6-(R)-benzyloxymethyl-3-(R)-hydroxy-tetrahydro-pyran-2-(R)-yl)-3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | 0.18 mmol, 0.144 g | C(C1=CC=CC=C1)O[C@H]1[C@H]([C@@H](O[C@@H]([C@@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)O | C43H38ClF4NO7
catalyst | Platinum oxide | 0.09 mmol, 0.020 g | [Pt]=O
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R),4-(S),5-(S)-trihydroxy-6-(R)-hydroxymethyl-tetrahydro-pyran-2-(R)-yl)-1,3-dihydro-indol-2-one | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)=O)F)OC | C22H20ClF4NO7
